US07645764B2
3-Bromo-4-methyl-benzoic acid methyl ester (20.0 g, 87.31 mmol) was dissolved in 220 mL toluene, and 3-oxo-butyric acid ethyl ester (25.0 g, 192.08 mmol), K3PO4 (102 g, 480 mmol), biphen-2-yl-P(t-Bu)2 (2.60 g, 8.73 mmol), and palladium diacetate (980 mg, 4.36 mmol) were added. The reaction mixture was evacuated and purged with argon, and then heated to 90° C. for 15 hours. The reaction mixture was cooled and partitioned between water and ethyl acetate. The organic layer was washed with water, brine, dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (10%-15% EtOAc/hexanes) to provide 2.20 g of 3-ethoxycarbonylmethyl-4-methyl-benzoic acid methyl ester, MS (M+H)=237.

reactant | 3-Bromo-4-methyl-benzoic acid methyl ester | 87.31 mmol, 20.0 g | COC(C1=CC(=C(C=C1)C)Br)=O | C9H9BrO2
reactant | 3-oxo-butyric acid ethyl ester | 192.08 mmol, 25.0 g | C(C)OC(CC(C)=O)=O | C6H10O3
reactant | K3PO4 | 480 mmol, 102 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium diacetate | 4.36 mmol, 980 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 3-ethoxycarbonylmethyl-4-methyl-benzoic acid methyl ester | 2.20 g | COC(C1=CC(=C(C=C1)C)CC(=O)OCC)=O | C13H16O4
